US04473586
5 g. of 5-allyloxy-1,2,3,4-tetrahydro-1-naphthalenone is reacted with trimethylsilylcyanide and then with lithium aluminum hydride as described in Example 1 to give 1-aminomethyl-1-hydroxy-5-allyloxy-1,2,3,4-tetrahydronaphthalene. The latter compound is treated with HCl in ethanol as described in Example 3 to give 1-aminomethyl-5-allyloxy-3,4-dihydronaphthalene HCl; m.p. 166°-167° C.

reactant | 5-allyloxy-1,2,3,4-tetrahydro-1-naphthalenone | C(C=C)OC1=C2CCCC(C2=CC=C1)=O | C13H14O2
reactant | trimethylsilylcyanide | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-aminomethyl-1-hydroxy-5-allyloxy-1,2,3,4-tetrahydronaphthalene | NCC1(CCCC2=C(C=CC=C12)OCC=C)O | C14H19NO2
